US08486963B2
7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid
To a solution of 7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ethyl ester (230 mg, 0.54 mmol) in a mixture of dioxane (2 mL) and water (1 mL) was added lithium hydroxide monohydrate (45 mg, 1.08 mmol). The reaction was heated at 60° C. for 1 hour. Aqueous hydrochloric acid (1M) was added dropwise until pH˜5 causing a precipitate to form. The reaction mixture was filtered and the solid residue washed with ethyl acetate (5 mL) to yield the title compound as an off white solid (67 mg, 31%). LCMS (Method B): RT=3.22 min, M+H+=398.

reactant | 7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ethyl ester | 0.54 mmol, 230 mg | C(C)OC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C16H13FIN3O2
reactant | lithium hydroxide monohydrate | 1.08 mmol, 45 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid | FC1=C(C=CC(=C1)I)NC1=C(C=C2N1C=NC=C2)C(=O)O | C14H9FIN3O2
